US04220787
The carbamate used as the starting material is obtained by reacting an isocyanate with an alcohol or a carbamic acid chloride with an alcohol in the presence of an alkali, in the conventional manner. For example, reaction of 3,5-dichlorophenyl isocyanate with methyl alcohol gives methyl N-(3,5-dichlorophenyl)-carbamate (melting point 121° C.).

reactant | carbamate | C(N)([O-])=O
reactant | isocyanate | [N-]=C=O
reactant | carbamic acid chloride | C(N)(=O)Cl | CH2ClNO
reactant | 3,5-dichlorophenyl isocyanate | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | methyl alcohol | CO | CH4O
product | methyl N-(3,5-dichlorophenyl)-carbamate | ClC=1C=C(C=C(C1)Cl)NC(OC)=O | C8H7Cl2NO2
